US07691843B2
To a stirred solution of 1-hydroxy-2-trifluoromethylthiobenzene (16 mmol, 1.0 eq.) in CH2Cl2 (40 mL) at −78° C. was added a solution of Br2 (0.83 mL, 16 mmol, 1.0 eq.) in CH2Cl2 (18 mL) slowly. The resulting mixture was stirred at −78° C. for 2 h and then warmed to room temperature overnight. The reaction mixture was diluted with water (300 mL) and extracted with CH2Cl2 (3×150 mL). The combined organic layer was washed with brine (400 mL), dried (Na2SO4) and concentrated in vacuo. The crude product was purified by column chromatography using 0-10% EtOAc in hexanes as an eluent to afford 4-bromo-1-hydroxy-2-trifluoromethylthiobenzene in 93% yield as a crystalline solid.

reactant | 1-hydroxy-2-trifluoromethylthiobenzene | 16 mmol, 1.0 eq. | OC1=C(C=CC=C1)SC(F)(F)F | C7H5F3OS
reactant | Br2 | 16 mmol, 0.83 mL, 1.0 eq. | BrBr | Br2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
solvent | water | 300 mL | O | H2O
product | 4-bromo-1-hydroxy-2-trifluoromethylthiobenzene | 93% yield | BrC1=CC(=C(C=C1)O)SC(F)(F)F | C7H4BrF3OS
